US07026324B2
[6-Chloro-3-(2.2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin 1-yl]-acetic acid (17-13)
To a stirred solution of 7.27 g (19.5 mmol) of [6-chloro-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin-1-yl]-acetic acid ethyl ester in 200 mL of methanol was added 39 mL (39.0 mmol) of 1M aq. potassium hydroxide. After 3 h the solution was acidified to pH=7 using conc. HCl, and concentrated at reduced pressure (azeotrope with PhCH3) to give a white solid containing potassium chloride and the product. 1H NMR (CD3OD) δ 8.64 (d, 1H, 4.8 Hz), 7.93 (ddd,1H, 7.7, 7.7, 1.5 Hz), 7.70 (d, 1H, 8.0 Hz), 7.49 (dd, 1H, 5.2, 7.4 Hz), 6.80 (s, 1H), 4.67 (s, 2H), 4.27 (t, 2H, 13.9 Hz).

reactant | [6-chloro-3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin-1-yl]-acetic acid ethyl ester | 19.5 mmol, 7.27 g | C(C)OC(CN1C(C(=NC=C1Cl)NCC(C1=NC=CC=C1)(F)F)=O)=O | C15H15ClF2N4O3
reactant | potassium hydroxide | 39.0 mmol, 1M, 39 mL | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | potassium chloride | [Cl-].[K+]
solvent | methanol | 200 mL | CO | CH4O
product | [6-Chloro-3-(2.2-difluoro-2-pyridin-2-yl-ethylamino)-2-oxo-2H-pyrazin 1-yl]-acetic acid | ClC1=CN=C(C(N1CC(=O)O)=O)NCC(C1=NC=CC=C1)(F)F | C13H11ClF2N4O3
